US07435842B2
Into the above-mentioned 200-ml autoclave containing the reaction mixture (containing an organometal compound having a hexyloxy group) was charged 61.5 g (602 mmol) of hexanol (manufactured and sold by Aldrich, U.S.A.; a dehydrated grade), and the autoclave was sealed. Then, from a carbon dioxide gas bomb, carbon dioxide gas, the pressure of which was lowered to 5 MPa by means of a pressure regulator connected to the carbon dioxide gas bomb, was introduced into the autoclave. Stirring of the contents of the autoclave was started. 10 Minutes after the start of the stirring, the valve of the carbon dioxide gas bomb was closed. Then, the internal temperature of the autoclave was elevated to 180° C. while stirring. In this instant, the internal pressure of the autoclave was about 7.5 MPa. Then, a reaction was performed for 6 hours while maintaining the internal pressure of the autoclave at about 7.5 MPa. Thereafter, the inside of the autoclave was cooled to about 30° C. and the internal pressure of the autoclave was returned to atmospheric pressure by gently purging the carbon dioxide gas, and there was obtained a transparent reaction mixture. In the reaction mixture, dihexyl carbonate was obtained in a yield of about 14%.

reactant | hexanol | 602 mmol, 61.5 g | C(CCCCC)O | C6H14O
reactant | carbon dioxide | C(=O)=O | CO2
product | dihexyl carbonate | yield of about 14% | C(OCCCCCC)(OCCCCCC)=O | C13H26O3
